US07851469B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-(4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-methanone
As described for Example 32, 4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester (100 mg, 0.23 mmol) was converted, using thiomorpholine 1,1-dioxide (125.4 mg, 0.9 mmol) instead of cyclopropanemethylamine, to the title compound (95 mg, 77%) which was obtained as a white solid. MS: m/e=534.8 [M+H]+.

reactant | 4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H13F4N3O3
reactant | thiomorpholine 1,1-dioxide | 0.9 mmol, 125.4 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-(4-{4-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-methanone | 95 mg, 77% | O=S1(CCN(CC1)C(=O)C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C24H18F4N4O4S
